US03962314
An aromatic polyester useful as a cross-linking agent for the prepolymer of Example 1 is produced as follows. 414 g. (3 moles) of p-hydroxybenzoic acid, 510 g (3.75 moles) of phenyl acetate and 954 g. (3 moles) of diphenyl isophthalate are charged into a fournecked resin kettle equipped with a thermometer, stirrer, distilling head and a combination nitrogen-HCl inlet tube. The reaction mixture is stirred constantly under a nitrogen atmosphere throughout the run. The reaction mixture is heated to 180°C, and HCl is then bubbled through the mixture for 7 hours, the temperature being held at 180°C. Phenyl p-hydroxybenzoate is thereby produced. The HCl flow is discontinued, the reaction mixture is heated to 200°C at a rate of 10°C/hour, 363 g. (3.3 moles) of hydroquinone is added, and the temperature is further increased to 250°C over a period of 2.5 hours. The distilling head is then heated to 190°C by external heating means to prevent condensation in the distilling head of distillate subsequently to be produced. The reaction mixture is heated to 320°C over a period of 6 hours, held at 320°C for 16 hours, heated to 340°C and held there for 3 hours. During this stage, condensation occurs between the phenyl p-hydroxybenzoate, diphenyl isophthalate and hydroquinone, accompanied by the distillation of phenol. A total of 1127 g. of distillate is collected during the entire run, the distillate containing acetic acid, phenol and the excess phenyl acetate.

reactant | p-hydroxybenzoic acid | 3 moles | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | phenyl acetate | 3.75 moles, 510 g | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
reactant | diphenyl isophthalate | 3 moles | C(C1=CC(C(=O)OC2=CC=CC=C2)=CC=C1)(=O)OC1=CC=CC=C1 | C20H14O4
product | Phenyl p-hydroxybenzoate | OC1=CC=C(C(=O)OC2=CC=CC=C2)C=C1 | C13H10O3
